US09102621B2
4-[(5-Chloropyridin-2-yl)methoxy]-2,5-difluoro-N-(methylsulfonyl)benzamide diethylamine salt
To a solution of (5-chloropyridin-2-yl)methanol (15 mg, 0.105 mmol), in dichloromethane (5 mL) and triethylamine (0.02 mL, 0.157 mmol) was added methanesulfonyl chloride (0.01 mL, 0.115 mmol). The reaction was stirred at room temperature for 2 hours. The solvent was removed in vacuo to afford a residue, which was taken up in DMSO (5 mL). Potassium carbonate (43 mg, 0.315 mmol) was added, followed by 2,5-difluoro-4-hydroxy-N-(methylsulfonyl)benzamide (Preparation 110, 29 mg, 0.115 mmol) and the reaction was heated to 50° C. overnight. The reaction mixture was cooled to room temperature, diluted with water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over sodium sulphate, filtered and concentrated in vacuo. The resulting residue was purified by preparative HPLC to afford the title compound.

reactant | (5-chloropyridin-2-yl)methanol | 0.105 mmol, 15 mg | ClC=1C=CC(=NC1)CO | C6H6ClNO
reactant | triethylamine | 0.157 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.115 mmol, 0.01 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Potassium carbonate | 0.315 mmol, 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoro-4-hydroxy-N-(methylsulfonyl)benzamide | 0.115 mmol, 29 mg | FC1=C(C(=O)NS(=O)(=O)C)C=C(C(=C1)O)F | C8H7F2NO4S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | 4-[(5-Chloropyridin-2-yl)methoxy]-2,5-difluoro-N-(methylsulfonyl)benzamide diethylamine salt | C(C)NCC.ClC=1C=CC(=NC1)COC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | InChI=1S/C14H11ClF2N2O4S.C4H11N/c1-24(21,22)19-14(20)10-4-12(17)13(5-11(10)16)23-7-9-3-2-8(15)6-18-9;1-3-5-4-2/h2-6H,7H2,1H3,(H,19,20);5H,3-4H2,1-2H3
